US08334287B2
5-(2,5-dimethyl-4-m-tolylethynyl-imidazol-1-yl)-2-methyl-2H-pyridazin-3-one
The title compound, light yellow cristalline solid, MS: m/e=319.1 (M+H+), was prepared in accordance with the general method of example 1c from 5-(4-iodo-2,5-dimethyl-imidazol-1-yl)-2-methyl-2H-pyridazin-3-one and 1-ethynyl-3-methyl-benzene.

reactant | 5-(4-iodo-2,5-dimethyl-imidazol-1-yl)-2-methyl-2H-pyridazin-3-one | IC=1N=C(N(C1C)C1=CC(N(N=C1)C)=O)C | C10H11IN4O
reactant | 1-ethynyl-3-methyl-benzene | C(#C)C1=CC(=CC=C1)C | C9H8
product | 5-(2,5-dimethyl-4-m-tolylethynyl-imidazol-1-yl)-2-methyl-2H-pyridazin-3-one | CC=1N(C(=C(N1)C#CC=1C=C(C=CC1)C)C)C1=CC(N(N=C1)C)=O | C19H18N4O
